US08278335B2
Step 4. Potassium 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate
To a solution of methyl 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate (840 mg, 2.83 mmol) in tetrahydrofuran (6.0 mL) and methanol (3.0 mL) was added 1 M aqueous potassium hydroxide (3.11 mL, 3.11 mmol). The solution was stirred at room temperature for 3 h, during which time it became a white slurry. The solvent was evaporated to afford the title salt as a colorless solid that was carried forward without purification. LRMS (APCI) calc'd for C9H8BrN4O2 [M+H]+: 283, Found: 283.

reactant | methyl 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate | 2.83 mmol, 840 mg | BrC1=CC=CC(=N1)CN1N=NC(=C1)C(=O)OC | C10H9BrN4O2
reactant | potassium hydroxide | 3.11 mmol, 1 M, 3.11 mL | [OH-].[K+]
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 3.0 mL | CO | CH4O
product | Potassium 1-[(6-bromopyridin-2-yl)methyl]-1H-1,2,3-triazole-4-carboxylate | BrC1=CC=CC(=N1)CN1N=NC(=C1)C(=O)[O-].[K+] | InChI=1S/C9H7BrN4O2.K/c10-8-3-1-2-6(11-8)4-14-5-7(9(15)16)12-13-14;/h1-3,5H,4H2,(H,15,16);/q;+1/p-1
